US07169773B2
tert-butyl 3-({1-[2-(benzyloxy)-2-oxoethyl]-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-3-yl}methyl)-1H-indazole-1-carboxylate
To a stirring solution of benzyl (2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-1-yl)acetate (3.45 g, 8.62 mM) in 25 mL DMF at 0° C. was added 1.1 equiv. of 0.5 M solution of KN(TMS)2 in toluene. The resulting solution was stirred 10–30 min, then a solution of tert-butyl 3-(bromomethyl)-1H-indazole-1-carboxylate (2.95 g, 9.48 mM) in 15 mL DMF was added. The resulting solution was stirred 2 h at RT and then quenched with 5 mL of H2O. The reaction mixture was then poured into 50 mL of EtOAc and extracted with H2O (2×50 mL). The organic layer was separated, dried (MgSO4), and the solvents removed in vacuo. The resultant material was purified by silica gel flash column chromatography using methylene chloride/EtOAc 9/1 providing 4.4 g of white solid.

reactant | benzyl (2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-1-yl)acetate | 8.62 mM, 3.45 g | O=C1CC(N(C2=C(N1CC(=O)OCC1=CC=CC=C1)C=CC=C2)C2=CC=CC=C2)=O | C24H20N2O4
reactant | tert-butyl 3-(bromomethyl)-1H-indazole-1-carboxylate | 9.48 mM, 2.95 g | BrCC1=NN(C2=CC=CC=C12)C(=O)OC(C)(C)C | C13H15BrN2O2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | tert-butyl 3-({1-[2-(benzyloxy)-2-oxoethyl]-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-3-yl}methyl)-1H-indazole-1-carboxylate | C(C1=CC=CC=C1)OC(CN1C(C(C(N(C2=C1C=CC=C2)C2=CC=CC=C2)=O)CC2=NN(C1=CC=CC=C21)C(=O)OC(C)(C)C)=O)=O | C37H34N4O6
